US06596906B2
37 g of 3,5-bis(trifluoromethyl)benzaldehyde and 4 g of Raney nickel together with 150 ml of toluene were placed in a reaction vessel at room temperature. The vessel was pressurized with 30 bar of hydrogen gas and the mixture was hydrogenated at 50° C. for 7.5 hours while stirring. The mixture was subsequently cooled to room temperature, depressurized and the catalyst was filtered off. The filtrate was evaporated and the crude product obtained in this way was distilled at 17 mbar. 3,5-bis(trifluoro-methyl)benzyl alcohol having a boiling point of 97° C. was obtained in a yield of 31.5 g and a purity of 97.7%. This corresponds to a yield of 82.5% of theory.

reactant | 3,5-bis(trifluoromethyl)benzaldehyde | 37 g | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 4 g | [Ni] | Ni
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-bis(trifluoro-methyl)benzyl alcohol | yield of 82.5% | FC(C=1C=C(CO)C=C(C1)C(F)(F)F)(F)F | C9H6F6O
